US07098226B2
1-[2-(1-Adamantyl)ethyl]-3-[3-hydroxy-3-(4-pyridyl)propyl]-1-pentylurea (Compound No. 14-1)
A solution of 1-[2-(1-adamantyl)ethyl]-3-[3-(t-butyldimethylsilyloxy)-3-(4-pyridyl)propyl]-1-pentylurea (Compound No. 1-138) (136 mg, 0.250 mmol) in 10% hydrogen chloride-methanol (2.3 ml) was stirred at room temperature for three days. The solvent was evaporated under reduced pressure, the residue was distributed with ethyl acetate (50 ml), water (30 ml) and a 1 N aqueous sodium hydroxide solution (20 ml), and the organic layer was washed with a saturated aqueous sodium chloride solution (40 ml). The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the titled compound (59.2 mg, colorless noncrystalline powder, 55.3%).

reactant | 1-[2-(1-adamantyl)ethyl]-3-[3-(t-butyldimethylsilyloxy)-3-(4-pyridyl)propyl]-1-pentylurea | C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NCCC(C2=CC=NC=C2)O[Si](C)(C)C(C)(C)C)CCCCC | C32H55N3O2Si
solvent | hydrogen chloride methanol | 2.3 ml | Cl.CO
product | 1-[2-(1-Adamantyl)ethyl]-3-[3-hydroxy-3-(4-pyridyl)propyl]-1-pentylurea | 59.2 mg, 55.3% | C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NCCC(C2=CC=NC=C2)O)CCCCC | C26H41N3O2
